US06960601B2
To a solution of ethyl 3-cyclopropyl-2-oxopropanoate (4.75 g, 30.44 mmol) in CCl4 (60 mL) at rt was added NBS (5.96 g 33.49 mmol). The resulting mixture was heated at reflux overnight, then cooled, filtered, and evaporated to provide ethyl 3-bromo-3-cyclopropyl-2-oxopropanoate; 1H NMR (CDCl3): δ 4.46-4.32 (3H, m), 1.41 (3H, t, J=8 Hz), 0.96-0.86 (1H, m), 0.55-0.50 (2H, m), 0.07-0.03 (2H, m). This compound was used without purification for the preparation of compounds of the invention such as 1-(4-chlorophenyl)-2-(2-chlorophenyl)-N-(1-piperidinyl)-5-cyclopropyl-1H-imidazole-4-carboxamide hydrochloride (Table entry 22). In a similar manner, ethyl 3-bromo-3-cyclobutyl-2-oxopropanoate and ethyl 3-bromo-3-isobutyl-2-oxopropanoate were prepared.

reactant | ethyl 3-cyclopropyl-2-oxopropanoate | 30.44 mmol, 4.75 g | C1(CC1)CC(C(=O)OCC)=O | C8H12O3
reactant | NBS | 33.49 mmol, 5.96 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CCl4 | 60 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | ethyl 3-bromo-3-cyclopropyl-2-oxopropanoate | BrC(C(C(=O)OCC)=O)C1CC1 | C8H11BrO3
